US07846959B2
A solution of 3-hydroxy-2-(phenylmethyl)-3-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]-2,3-dihydro-1H-isoindol-1-one was taken up in 1M tetrabutylammonium fluoride in tetrahydrofuran (6.0 mL, 6.0 mmol), and ethylenediamine (0.22 mL, 3.6 mmol) was added. The solution was heated to 70° C. for 45 min. The reaction mixture was diluted with ethyl acetate and saturated aqueous sodium bicarbonate solution. The layers were separated and the combined organic layers were dried (sodium sulfate), filtered and concentrated in vacuo. Purification was undertaken via HPLC (reverse-phase, acetonitrile/water with 0.1% trifluoroacetic acid), followed by column chromatography (silica gel, 5% methanol/dichloromethane). The resultant yellow solid was taken up in ethyl acetate and washed with 10% aqueous citric acid solution (3×), dried (sodium sulfate), filtered and concentrated in vacuo. Lyophilization gave 0.0045 g (4%) of 3-hydroxy-3-(1H-indol-5-yl)-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one. 1H NMR (400 MHz, d6-DMSO): 8.20 (d, 1H), 7.91 (dt, 2H), 7.84 (dt, 1H), 7.75 (d, 1H), 7.71 (m, 1H), 7.56 (d, 1H), 7.35 (m, 6H), 4.65 (m, 2H); MS (EI) for C23H18N2O2: 354 (MH+).

reactant | 3-hydroxy-2-(phenylmethyl)-3-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]-2,3-dihydro-1H-isoindol-1-one | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C29H32N2O3Si
reactant | tetrahydrofuran | 6.0 mmol, 6.0 mL | O1CCCC1 | C4H8O
reactant | ethylenediamine | 3.6 mmol, 0.22 mL | C(CN)N | C2H8N2
solvent | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-hydroxy-3-(1H-indol-5-yl)-2-(phenylmethyl)-2,3-dihydro-1H-isoindol-1-one | 0.0045 g, 4% | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C=1C=C2C=CNC2=CC1 | C23H18N2O2
